### PR TITLE
feat: every nonzero finite-dimensional module has a highest weight vector

### PR DESCRIPTION
**Pull request by kim-em**
This PR proves that every nonzero finite-dimensional module over a Killing-semisimple Lie algebra carries a highest weight vector for a chosen base of the root system, and hence exhibits a dominant integral weight; it also records the root-system fact that a nonempty sum of positive roots is nonzero.

The vector comes from a maximal weight: `exists_weight_forall_genWeightSpace_add_eq_bot` produces a weight `χ` of `M` such that `α + χ` is a weight for no positive root `α`, and `isHighestWeightVector_of_forall_genWeightSpace_add_eq_bot` shows every nonzero vector of a maximal weight space is a highest weight vector. Maximality is a finiteness argument: if no weight were maximal, choosing for each weight a positive root translating it to another weight gives a successor map on the finite set of weights, whose iterates must repeat, so the positive roots traversed along the cycle would sum to zero. The new root-system lemma `sum_root_ne_zero_of_mem_posRoots` in `TauCeti/LinearAlgebra/RootSystem/Positive.lean` forbids that: expanding in the simple roots, the total coefficient is the sum of the heights, which is positive, and the simple roots are linearly independent. That lemma is the prerequisite this argument consumes, and it is the integral form of "the positive roots lie in an open half space".

That every nonzero vector of the maximal weight space is annihilated by the positive root spaces is `LieModule.lie_mem_genWeightSpace_of_mem_genWeightSpace`; that the Cartan subalgebra acts on it through a single linear form is the diagonalizability theorem already in the repository, `TauCeti.mem_genWeightSpace_iff_forall_lie_eq_smul`, so the weight spaces used here are honest simultaneous eigenspaces and not merely generalized ones. Composing with the existing `IsHighestWeightVector.isDominantIntegral` gives `exists_isDominantIntegral_and_isHighestWeightVector` and its packaged form `exists_weight_isDominantIntegral`, and for an irreducible module `exists_isHighestWeightVector_and_lieSpan_eq_top` states the conclusion in the shape the classification wants: a finite-dimensional irreducible is a highest weight module, generated by a highest weight vector.

The milestone served is Layer 4 of the highest-weight roadmap, "the classification of finite-dimensional irreducibles", whose first bullet reads "A finite-dimensional irreducible `L`-module has a highest weight vector (a nonzero vector in the top weight space for the height order, killed by `n⁺`), so it is a highest weight module, hence `≅ L(λ)` for a unique `λ`". This PR supplies exactly the existence half of that bullet; what remains for the milestone is the identification of the highest weight module with `L(λ)`, which waits on the Verma modules of Layer 3 and so on the enveloping-algebra work that layer stages.

Lie's theorem (`LieModule.exists_nontrivial_weightSpace_of_isSolvable`) is the other classical route to the same vector. It is not taken here because it needs two results that are not yet available, that the Borel subalgebra is solvable and that `n⁺` lies in its derived subalgebra, whereas the maximal-weight argument needs only the finiteness of the set of weights; the file's implementation notes record this.

No material was taken from the supplementary source snapshot, and no Mathlib infrastructure was vendored.

Roadmap: RepresentationTheory

🤖 Prepared with Claude Code

### CODE REVIEW

File: TauCeti/Algebra/Lie/HighestWeight/Existence.lean
Comment (kim-em) [inline TauCeti/Algebra/Lie/HighestWeight/Existence.lean:1]: ### ✅ reuse — now passing on `092f0d3`.

Comment (kim-em) [inline TauCeti/Algebra/Lie/HighestWeight/Existence.lean:1]: ### ✅ scope — now passing on `092f0d3`.

Comment (kim-em) [inline TauCeti/Algebra/Lie/HighestWeight/Existence.lean:1]: ### ✅ generality — now passing on `092f0d3`.

Comment (kim-em) [inline TauCeti/Algebra/Lie/HighestWeight/Existence.lean:1]: ### ✅ documentation — now passing on `092f0d3`.

**Comment by kim-em** [comment]
## AI review — approved

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The positive-root sum lemma, maximal-weight argument, and resulting highest-weight and dominant-integral existence theorems faithfully express the intended mathematics under their stated hypotheses. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | The new declarations add distinct results, and no direct replacement or unnecessary parallel API was located in TauCeti or Mathlib. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR coherently advances the explicit Layer 4 highest-weight-vector existence target using completed earlier weight and root-system infrastructure. The two supporting lemmas are direct prerequisites of that single argument, while the absent Verma-module portion of Layer 3 is needed only for the later identification with `L(λ)`. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The current code credits Humphreys §20.2 and the roadmap for the highest-weight construction, and explicitly identifies the Mathlib proof underlying `nonempty_weight`. The positive-root sum lemma is routine and reveals no additional source requiring credit. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The canonical API exposes the reusable maximal-weight and highest-weight results without redundant conjunction wrappers; dominance is directly available from `IsHighestWeightVector.isDominantIntegral`. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The changed declarations are stated at natural levels; no unused or unnecessarily strong assumptions remain. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The new highest-weight results, general weight-existence lemma, and root-system lemma are in their natural topic files, with no evidently wrong imports. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced declaration names describe their conclusions using existing TauCeti and Mathlib terminology, and no new notation is introduced. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | The new module has a substantive module docstring, and every added public theorem is documented accurately without overclaiming its statement. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The changed proofs are readable and appropriately factored, with no undocumented goal reshaping, brittle automation, or material reliance on accidental definitional equality. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/66ead9576b6b959d6177114803e76fe5630edf41...092f0d3b53a13b274e925336bcc0eb527a2e7f1f) at head `092f0d3`. rubrics @ [`b8161ef`](https://github.com/TauCetiProject/TauCetiReview/tree/b8161ef29f1bf922d3f9aea2b1b1e298bcd06078/rubrics). Review spend: $6.83.</sub>

File: TauCeti/Algebra/Lie/HighestWeight/Existence.lean
Comment (kim-em) [reply TauCeti/Algebra/Lie/HighestWeight/Existence.lean:1]: Contesting this one.

The finding reads the roadmap's "Ordering" section as a gate on Layer 4 as a whole, but the dependency it records is Layer 3 → the *classification* half of Layer 4, not Layer 3 → every Layer 4 statement. What this PR proves is the first clause of the first Layer 4 bullet, and that clause is exactly the part that consumes Layers 0-2 and nothing from Layer 3.

Evidence, from `TauCetiRoadmap/RepresentationTheory/LieHighestWeight/`:

1. The Layer 4 bullet (README.md, line 427) splits into three claims: "A finite-dimensional irreducible `L`-module **has a highest weight vector** (a nonzero vector in the top weight space for the height order, killed by `n⁺`), **so it is a highest weight module**, hence **`≅ L(λ)` for a unique `λ`**". Only the third claim mentions `L(λ)`, the Layer 3 object. This PR supplies the first two: `exists_isHighestWeightVector` and `exists_isHighestWeightVector_and_lieSpan_eq_top`. It does not state, assume, or approximate anything about `L(λ)`, Verma modules, PBW, or the Kostant partition function.

2. The roadmap's own suggested signature for the Layer 4 target is `Suggested.lean:262`, `exists_isDominantIntegral_isHighestWeightVector_of_irreducible`, whose statement is

   ```lean
   ∃ (lam : Module.Dual K H) (v : M), IsHighestWeightVector base lam v ∧ IsDominantIntegral base lam
   ```

   That signature mentions no Layer 3 declaration: not `vermaModule`, not `irreducibleQuotient`, not `kostantPartition`. The roadmap itself therefore states a Layer 4 target that is expressible and provable before Layer 3 exists, which is what this PR does. (The Layer 3-dependent targets, `finiteDimensional_irreducibleQuotient_iff` at `Suggested.lean:276` and the classification bijection at `:284`, are untouched here.)

3. The imports bear this out: `TauCeti/Algebra/Lie/HighestWeight/Existence.lean` imports only `TauCeti.Algebra.Lie.HighestWeight.Basic` and `TauCeti.Algebra.Lie.Weights.Diagonalizable`, i.e. Layer 2 (the honest-weight-space theorem) plus the Layer 1 root-system material, and the new prerequisite `sum_root_ne_zero_of_mem_posRoots` in `TauCeti/LinearAlgebra/RootSystem/Positive.lean`. There is no dangling reference to an absent Layer 3 API, so nothing here has to be revisited when Verma modules land: the existence theorem is consumed by the classification, not conditioned on it.

4. The Ordering section also says of Layer 3 that "PBW is a substantial independent sub-project and can start early", and describes lanes proceeding in parallel throughout. Reading it as a strict serial gate would also forbid, for instance, Layer 8's split-octonion work, which the same section explicitly calls buildable "at any time".

Under `.claude/CLAUDE.md` the roadmap gates new mathematics by whether it "advances a specific roadmap target, or supplies a prerequisite that a specific target needs". This advances the existence clause of the Layer 4 bullet and supplies the prerequisite that `exists_isDominantIntegral_isHighestWeightVector_of_irreducible` needs. Deferring it would leave that prerequisite unbuilt while adding nothing to Layer 3, which is gated on the enveloping algebra rather than on this file.

Comment (kim-em) [inline TauCeti/Algebra/Lie/HighestWeight/Existence.lean:1]: ### ✅ api-design — now passing on `092f0d3`.

Comment (kim-em) [inline TauCeti/Algebra/Lie/HighestWeight/Existence.lean:1]: ### ✅ placement — now passing on `092f0d3`.

Comment (kim-em) [reply TauCeti/Algebra/Lie/HighestWeight/Existence.lean:1]: **Re: your reply on `scope` —** re-reviewed on `e516c30`; this clears the finding ✅ — approved on `e516c30`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3747532032.</sub>

Comment (kim-em) [reply TauCeti/Algebra/Lie/HighestWeight/Existence.lean:1]: Contesting this one: the declaration it asks for is the declaration the `reuse` rubric required be deleted one round earlier, so complying would just move the redness from `api-design` to `reuse`.

**The contradiction.** In round 1, `reuse` flagged `TauCeti.exists_isDominantIntegral_and_isHighestWeightVector`

```lean
theorem exists_isDominantIntegral_and_isHighestWeightVector [Nontrivial M] :
    ∃ (lam : Dual K H) (v : M), IsDominantIntegral b lam ∧ IsHighestWeightVector b lam v := by
  obtain ⟨lam, v, hv⟩ := exists_isHighestWeightVector (M := M) b
  exact ⟨lam, v, hv.isDominantIntegral, hv⟩
```

as a redundant re-bundle, and commit e516c30 removed it for exactly that reason ("Delete `exists_isDominantIntegral_and_isHighestWeightVector`, which only re-bundled `exists_isHighestWeightVector` with `IsHighestWeightVector.isDominantIntegral`, and prove `exists_weight_isDominantIntegral` from those two directly"). The round-2 `reuse` verdict on this same head then records the removal as the reason it now approves: "The previously redundant conjunction bundle has been removed." This finding asks for that declaration back, modulo the order of the two conjuncts. Both cannot hold.

**Why I think `reuse` has the better of it.** The conjunction is not a result that has to be reconstructed; it is one application of a lemma that exists precisely to supply the second conjunct, with the same implicit arguments already in scope:

```lean
theorem IsHighestWeightVector.isDominantIntegral {lam : Dual K H} {v : M}
    (hv : IsHighestWeightVector b lam v) : IsDominantIntegral b lam
```
(`TauCeti/Algebra/Lie/HighestWeight/Basic.lean:312`)

So a downstream consumer wanting the roadmap`s conjunction writes

```lean
obtain ⟨lam, v, hv⟩ := exists_isHighestWeightVector b
exact ⟨lam, v, hv, hv.isDominantIntegral⟩
```

There is no reconstruction of the central result here, no reproved argument, and no lost information: `hv.isDominantIntegral` is a projection-style consequence, and pairing `P v` with `f (P v)` for a one-step `f` is not new API. The same objection applies to any placement of the bundle (general, or attached to the irreducible statement `exists_isHighestWeightVector_and_lieSpan_eq_top`), which is why I do not think there is a variant that satisfies both rubrics.

**On the roadmap target.** `TauCetiRoadmap/RepresentationTheory/LieHighestWeight/Suggested.lean:262`, `exists_isDominantIntegral_isHighestWeightVector_of_irreducible`, is a Layer 4 target whose full statement this PR does not claim to close: as the PR description says, this is the existence half, and the identification with `L(λ)` waits on Layer 3. What the roadmap target needs from this file is the highest weight vector (`exists_isHighestWeightVector`) and, for irreducibles, that it generates (`exists_isHighestWeightVector_and_lieSpan_eq_top`); dominance is already available on any highest weight vector through `IsHighestWeightVector.isDominantIntegral`, and `exists_weight_isDominantIntegral` already packages the dominant integral weight as a `LieModule.Weight` for consumers that want the weight rather than the vector. Assembling the target`s exact conjunction is a single `exact` term at the point of use, best written when the target statement itself is proved rather than pre-bundled here.

If the review still wants the bundle, the `reuse` finding that required its deletion needs to be withdrawn first, otherwise this PR cannot converge.

Comment (kim-em) [reply TauCeti/Algebra/Lie/HighestWeight/Existence.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `092f0d3`; this clears the finding ✅ — approved on `092f0d3`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3748474977.</sub>
